US07179801B2
A solution of ethyl (2E)-3-(1-formyl-2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)-2-propenoate (40 g) in a mixture of ethanol (200 ml) and tetrahydrofuran (500 ml) was treated with 10% palladium carbon (10 g) under a hydrogen atmosphere at room temperature for 4.5 hours. After the catalyst was filtered off, the filtrate was concentrated in vacuo to give ethyl 3-(1-formyl-2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)propanoate (40.1 g). This product was used in the next step without further purification.

reactant | ethyl (2E)-3-(1-formyl-2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)-2-propenoate | 40 g | C(=O)N1CCN2N=CC(=C21)/C=C/C(=O)OCC | C11H13N3O3
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 10 g | [C].[Pd]
product | ethyl 3-(1-formyl-2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)propanoate | 40.1 g | C(=O)N1CCN2N=CC(=C21)CCC(=O)OCC | C11H15N3O3
